US06982274B2
4-Fluoro-1H-indazole-5-carboxylic acid methyl ester
To 1.65 g of 4-fluoro-1H-indazole-5-carbonitrile obtained in Production Example II-13-b were added 8 ml of glacial acetic acid, 8 ml of water and 16 ml of concentrated sulfuric acid, and the mixture was stirred at 110° C. for 4 hours. After standing to cool, 150 mg of ice-water was added, and the precipitated carboxylic acid was collected by filtration. Under ice-cooling, to a solution of the resulting carboxylic acid in 12 ml dimethylformamide and 40 ml tetrahydrofuran was added an excess amount of a solution of diazomethane in diethyl ether, and the mixture was stirred at the same temperature for 45 minutes. The solvent was evaporated, and the residue was dissolved in 100 ml of ethyl acetate. The mixture was sequentially washed with saturated aqueous sodium hydrogencarbonate solution, water and brine, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 1.98 g of the title compound as bright yellow crystals.

reactant | 4-fluoro-1H-indazole-5-carbonitrile | 1.65 g | FC1=C2C=NNC2=CC=C1C#N | C8H4FN3
reactant | acetic acid | 8 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 16 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 8 ml | O | H2O
product | 4-Fluoro-1H-indazole-5-carboxylic acid methyl ester | 1.98 g | COC(=O)C=1C(=C2C=NNC2=CC1)F | C9H7FN2O2
